US06288120B1
Trans-Ethyl-7-{[3-(3-Hydroxy-phenyl)-allyl]-methanesulfonyl-amino}-heptanoate
To a solution of 7-(allyl-methanesulfonyl-amino)-heptanoic acid ethyl ester (250 mg, 0.86 mmol), 1-acetyloxy-3-iodo-benzene (225 mg, 0.86 mmol), and triethylamine (139 mL, 1 mmol) in DMF (3 mL) was added palladium acetate (25 mg). The reaction was heated to 80° C. under nitrogen for 24 h. The mixture was cooled to room temperature and aqueous sodium thiosulfate and CH2Cl2 were added. The aqueous solution was extracted with CH2Cl2 (2×) and the combined organic layers were washed with water (1×) and brine (1×). The organic solution was dried with MgSO4, filtered, and concentrated in vacuo. The product was purified by radial chromatography (hexanes to 25% EtOAc/hexanes) to afford the title compound of Step A (95 mg). 1H NMR (CDCl3 400 MHz) δ 6.88-7.34 (m, 4H), 6.53-6.60 (m, 1H), 6.13-6.20 (m, 1H), 4.10 (q, 2H), 3.95 (d, 2H), 3.17-3.21 (m, 2H), 2.85 (s, 3H), 2.24-2.31 (m, 2H), 2.31 (s, 3H), 1.56-1.62 (m, 4H), 1.27-1.33 (m, 4H), 1.23 (t, 3H).

reactant | 7-(allyl-methanesulfonyl-amino)-heptanoic acid ethyl ester | 0.86 mmol, 250 mg | C(C)OC(CCCCCCN(S(=O)(=O)C)CC=C)=O | C13H25NO4S
reactant | 1-acetyloxy-3-iodo-benzene | 0.86 mmol, 225 mg | C(C)(=O)OC1=CC(=CC=C1)I | C8H7IO2
reactant | triethylamine | 1 mmol, 139 mL | C(C)N(CC)CC | C6H15N
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 25 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Trans-Ethyl-7-{[3-(3-Hydroxy-phenyl)-allyl]-methanesulfonyl-amino}-heptanoate | 95 mg | C(C)OC(CCCCCCN(S(=O)(=O)C)C\C=C\C1=CC(=CC=C1)O)=O | C19H29NO5S
